US05876756
N-(4-t-butoxycarbonylphenyl)-N'-ethoxycarbonyl thiourea
In 150 ml of isopropyl ether was dissolved 13.51 g of 4-amino-benzoic acid t-butyl ester. To the solution was added, while stirring at room temperature, 9.83 g of ethoxycarbonyl isothiocyanate. The mixture was stirred for two hours, the resulting crystalline precipitate was collected by filtration and recrystallizated from isopropyl ether to give 21.83 g of the title compound as colorless needles.

reactant | 4-amino-benzoic acid t-butyl ester | 13.51 g | C(C)(C)(C)OC(C1=CC=C(C=C1)N)=O | C11H15NO2
reactant | ethoxycarbonyl isothiocyanate | 9.83 g | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | isopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
product | N-(4-t-butoxycarbonylphenyl)-N'-ethoxycarbonyl thiourea | 21.83 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)NC(=S)NC(=O)OCC | C15H20N2O4S
